US06004983
To a solution of 11-(2-bromoethylidene)-6,11-dihydrodibenzo[b,e]thiepine (4.76 g, 0.015 mol, prepared similarly as described in Coll. Czech. Chem. Comm. 52, 1566, 1987) in dimethylsulfoxide (90 ml), potassium carbonate (3.1 g, 0.0225 mol), 4-piperidinecarboxylic acid ethyl ester (2.36 g, 0.015 mol) and sodium iodide (50 mg) were added and the mixture was stirred at 100° C. for 4 h. The reaction mixture was diluted with benzene (100 ml), the solid was filtered off and the filtrate was washed with water (4×60 ml). The benzene solution was dried (MgSO4) and the solvent removed in vacuo. The oily residue (6.34 g) was dissolved in acetone and treated with an ethanolic solution of oxalic acid. The resulting precipitate was filtered off and washed with a hot mixture of ethanol and acetone, affording 5.2 g (72%) of 1-(2-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-ethyl)-4-piperidinecarboxylic acid ethyl ester hydrogen oxalate.

reactant | 11-(2-bromoethylidene)-6,11-dihydrodibenzo[b,e]thiepine | BrCC=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C16H13BrS
reactant | potassium carbonate | 0.0225 mol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-piperidinecarboxylic acid ethyl ester | 0.015 mol, 2.36 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
solvent | dimethylsulfoxide | 90 ml | CS(=O)C | C2H6OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | sodium iodide | 50 mg | [I-].[Na+]
product | 1-(2-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-ethyl)-4-piperidinecarboxylic acid ethyl ester hydrogen oxalate | 5.2 g, 72% | C(C(=O)O)(=O)O.C(C)OC(=O)C1CCN(CC1)CC=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C24H27NO2S.C2H2O4/c1-2-27-24(26)18-11-14-25(15-12-18)16-13-21-20-8-4-3-7-19(20)17-28-23-10-6-5-9-22(21)23;3-1(4)2(5)6/h3-10,13,18H,2,11-12,14-17H2,1H3;(H,3,4)(H,5,6)
